US06770637B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(hydroxyacetyl-methyl-amino)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 70 mg (0.12 mmol) acetic acid (5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-ylcarbamoyl)-methyl ester in 4 ml tetrahydrofuran at room temperature under argon were added dropwise 0.13 ml (0.12 mmol) of a 1 M solution of potassium hexamethyldisilazide in tetrahydrofuran. Stirring was continued for 1 h at room temperature and 17 mg (0.12 mmol) methyl iodide were added. After stirring overnight, saturated ammonium chloride solution was added and the aqueous layer was extracted with diethyl ether. The diethyl ether layer was dried with sodium sulfate, evaporated, and the residue was purified by flash-chromatography to give 12 mg (18%) of the title compound as a white solid.

reactant | acetic acid (5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-ylcarbamoyl)-methyl ester | 0.12 mmol, 70 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)NC(=O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C29H27F6N3O4
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | methyl iodide | 0.12 mmol, 17 mg | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(hydroxyacetyl-methyl-amino)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 12 mg, 18% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N(C)C(CO)=O)(C)C)(F)F | C28H27F6N3O3
